US08809361B2
5-(4-Methylsulfanyl-phenyl)-1″-tert-butoxycarbonyl-dispiro[2,3-dihydrofuro[2,3-c]pyridine-2,1′-cyclobutane-3′,4″-piperidine]
The title compound is prepared from 5-chloro-1″-tert-butoxycarbonyl-dispiro[2,3-dihydrofuro[2,3-c]pyridine-2,1′-cyclobutane-3′,4″-piperidine] and 4-methylsulfanyl-phenylboronic acid following a procedure analogous to that described for Example 2; PdCl2[1,1′-bis(diphenylphosphino)-ferrocene]*CH2Cl2 complex is used as catalyst source. LC (method 3): tR=1.04 min; Mass spectrum (ESI+): m/z=453 [M+H]+.

reactant | 5-chloro-1″-tert-butoxycarbonyl-dispiro[2,3-dihydrofuro[2,3-c]pyridine-2,1′-cyclobutane-3′,4″-piperidine] | ClC=1C=C2C(=CN1)OC1(CC3(CCN(CC3)C(=O)OC(C)(C)C)C1)C2 | C19H25ClN2O3
reactant | 4-methylsulfanyl-phenylboronic acid | CSC1=CC=C(C=C1)B(O)O | C7H9BO2S
product | 5-(4-Methylsulfanyl-phenyl)-1″-tert-butoxycarbonyl-dispiro[2,3-dihydrofuro[2,3-c]pyridine-2,1′-cyclobutane-3′,4″-piperidine] | CSC1=CC=C(C=C1)C=1C=C2C(=CN1)OC1(CC3(CCN(CC3)C(=O)OC(C)(C)C)C1)C2 | C26H32N2O3S
